US08563723B2
0.42 g 2,3-Dihydro-1H-indole-5-sulfonic acid ethylamino-(4-ethyl-4,5-dihydro-pyrazol-1-yl)-methyleneamide was dissolved in 25 mL toluene, and 10 mol % of palladium on carbon was added. The mixture was stirred at 50° C. for 5 days, with addition of fresh catalyst (10 mol %) after 2 days. The mixture was cooled to room temperature and filtered over Hyflo. The filtrate was evaporated to dryness and the residue was purified by flash chromatography (DCM→DCM/EA 9:1) to give 0.26 g (66%) of 1H-Indole-5-sulfonic acid ethylamino-(4-ethyl-4,5-dihydro-pyrazol-1-yl)-methyleneamide as a blue oil. 1H NMR (400 MHz, CDCl3) δ 0.87 (t, J=7.37 Hz, 3H), 1.08 (t, J=7.22 Hz, 3H), 1.32-1.59 (m, 2H), 2.89-3.02 (m, 1H), 3.35-3.50 (m, 2H), 3.58 (dd, J=11.44, 7.52 Hz, 1H), 3.96 (t, J=11.29 Hz, 1H), 6.54-6.58 (m, 1H), 6.85 (d, J=1.50 Hz, 1H), 6.97 (br.s., 1H) 7.23-7.29 (m, 1H), 7.42 (d, J=8.73 Hz, 1H), 7.69 (dd, J=8.73, 1.81 Hz, 1H), 8.24 (d, J=1.20 Hz, 1H), 9.43 (br.s., 1H).

reactant | 2,3-Dihydro-1H-indole-5-sulfonic acid ethylamino-(4-ethyl-4,5-dihydro-pyrazol-1-yl)-methyleneamide | 0.42 g | C(C)NC(=NS(=O)(=O)C=1C=C2CCNC2=CC1)N1N=CC(C1)CC | C16H23N5O2S
solvent | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
catalyst | palladium on carbon | [Pd] | Pd
product | 1H-Indole-5-sulfonic acid ethylamino-(4-ethyl-4,5-dihydro-pyrazol-1-yl)-methyleneamide | 0.26 g, 66% | C(C)NC(=NS(=O)(=O)C=1C=C2C=CNC2=CC1)N1N=CC(C1)CC | C16H21N5O2S
